US07091347B2
(Tetrahydropyran-4-yl)-thieno[2,3-d]pyrimidin-2-yl-amine
A mixture of 2-methanesulfonyl-thieno[2,3-d]pyrimidine (1.58 g, 7.37 mmol), 4-aminotetrahydropyran (2.24 g, 3 eq) and 1-methyl-2-pyrolidinone (2 mL) was heated to 100° C. with stirring for about 7 hours and continued heating at 80° C. overnight. The reaction mixture was cooled to room temperature and diluted with ethyl acetate (180 mL)/water (60 mL). The layers were separated, and the organic layer was washed successively with water (4×60 mL) and brine (1×60 mL). The organic layer was then dried over magnesium sulfate, filtered and concentrated to give 1.7 g of the crude product. Purification by column chromatography on silica gel eluting with 25% ethyl acetate in hexanes afforded the title compound as a white powder (1.264 g) ((M+H)+=236, M.P.=127.0–130.0° C.).

reactant | 2-methanesulfonyl-thieno[2,3-d]pyrimidine | 7.37 mmol, 1.58 g | CS(=O)(=O)C=1N=CC2=C(N1)SC=C2 | C7H6N2O2S2
reactant | 4-aminotetrahydropyran | 2.24 g, 3 eq | NC1CCOCC1 | C5H11NO
reactant | 1-methyl-2-pyrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 180 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 60 mL | O | H2O
product | (Tetrahydropyran-4-yl)-thieno[2,3-d]pyrimidin-2-yl-amine | 1.264 g | O1CCC(CC1)NC=1N=CC2=C(N1)SC=C2 | C11H13N3OS
